US04159979
Relative stability of amino-protecting groups, namely Xys, 2-chlorobenzyloxycarbonyl and Z against trifluoroacetic acid. Boc-Lys(Xys)-OH(41.4 mg, 0.1 m.mol), Boc-Lys(2-Cl-Z)-OH.t-butylamine salt (48.8 mg, 0.1 m.mol) and Boc-Lys(Z)-OH.dicyclohexylamine salt (56.1 mg, 0.1 m.mol) are each dissolved in trifluoroacetic acid (0.5 ml) containing anisole (0.03 ml) and the solutions are allowed to stand at room temperature for 24 hours. The trifluoroacetic acid is distilled off and the residue is made up to 20 ml with cold water. An aliquot of this solution is taken and its lysine content is determined by means of an amino acid analyzer. The yields of lysine (% cleavage of ε-amino-protecting groups) are calculated.

reactant | Boc-Lys(2-Cl-Z)-OH | N([C@@H](CCCCNC(=O)OCC1=C(Cl)C=CC=C1)C(=O)O)C(=O)OC(C)(C)C | C19H27ClN2O6
reactant | t-butylamine | 48.8 mg | C(C)(C)(C)N | C4H11N
reactant | Boc-Lys(Z)-OH | N([C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)O)C(=O)OC(C)(C)C | C19H28N2O6
reactant | dicyclohexylamine | 56.1 mg | C1(CCCCC1)NC1CCCCC1 | C12H23N
reactant | anisole | 0.03 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | trifluoroacetic acid | 0.5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | lysine | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
